US07465731B2
To a suspension of 5-iodo-3-methyl-2-pyridinamine (7.0 g) in 47% hydrobromic acid was successively added bromine (2.31 mL) and aq solution of NaNO2 (5.16 g), the temperature being kept below 0° C. during addition. The reaction mixture was stirred for 1 hour at 5° C. and warmed to ambient temperature. The reaction was continued for 4 hours at ambient temperature and the mixture was diluted with NaOH (18 g in water 150 mL) and extracted with AcOEt. The organic phase was washed with 5% Na2S2O3 aq solution, water, and brine, and dried over Na2SO4. The solvent was removed in vacuo, and the residue was purified by silica gel column chromatography eluted with chloroform to give 2-bromo-5-iodo-3-methylpyridine (2.95 g) as pale yellow powder.

reactant | 5-iodo-3-methyl-2-pyridinamine | 7.0 g | IC=1C=C(C(=NC1)N)C | C6H7IN2
reactant | bromine | 2.31 mL | BrBr | Br2
reactant | NaNO2 | 5.16 g | N(=O)[O-].[Na+]
solvent | hydrobromic acid | Br | BrH
solvent | NaOH | 150 mL, 18 g | [OH-].[Na+]
product | 2-bromo-5-iodo-3-methylpyridine | 2.95 g | BrC1=NC=C(C=C1C)I | C6H5BrIN
